*
*  ZETEX  ZVP4424A Mosfet Spice Subcircuit   Last revision 3/5/00
*
.SUBCKT ZVP4424A 3 4 5
*                D G S
M1 3 2 5 5 P4424AM
RG 4 2 140
RL 3 5 4E9
C1 2 5 98.8E-12
C2 3 2 3.2E-12 
D1 3 5 P4424AD
*
.MODEL P4424AM PMOS VTO=-1.5 RS=1.245 RD=6.2 IS=1E-15 KP=0.52
+CBD=65.3E-12 PB=1
.MODEL P4424AD D IS=9.36E-13 RS=.196 N=1.045
.ENDS ZVP4424A
*
*$
*
*                          (C)  1994 ZETEX PLC
*
*   The copyright in this model  and  the design embodied belong to
*   Zetex PLC ("Zetex"). It is supplied free of charge by Zetex for
*   the purpose  of research  and design  and may be used or copied
*   intact (including this notice) for that purpose only. All other
*   rights  are  reserved.  The model  is believed  accurate but no
*   condition or warranty as to its  merchantability or fitness for
*   purpose  is  given  and  no liability  in respect of any use is
*   accepted by Zetex PLC, its distributors or agents.
*
*
*   Zetex PLC, Fields New Road, Chadderton, Oldham  OL9 8NP
